US05385880
73.9 g (0.24 mol) of 2-bromo-4-(4-clorophenyl)nicotinic acid and 22.0 g (0.29 mol) of thiourea were weighed, and 100 ml of 5% HCl aqueous solution and 150 ml of acetic acid were added thereto. The resultant mixture was stirred at 100° C. for 2 hours, and was poured into water. Thereafter, 400 ml of 50% sodium hydroxide aqueous solution was added to the resultant mixture, and the mixture was stirred at room temperature for 30 minutes. The mixture was then acidified with 20% HCl aqueous solution, and the crystal thus precipitated was filtrated out and was washed with water. The washed crystal was then dried to obtain a crude crystal of 2-mercapto-4-(4-chlorophenyl)nicotinic acid.

reactant | 2-bromo-4-(4-clorophenyl)nicotinic acid | 0.24 mol, 73.9 g | BrC1=C(C(=O)O)C(=CC=N1)C1=CC=C(C=C1)Cl | C12H7BrClNO2
reactant | thiourea | 0.29 mol, 22.0 g | NC(=S)N | CH4N2S
reactant | HCl | 100 ml | Cl | ClH
reactant | sodium hydroxide | 400 ml | [OH-].[Na+]
solvent | water | O | H2O
solvent | acetic acid | 150 ml | C(C)(=O)O | C2H4O2
product | 2-mercapto-4-(4-chlorophenyl)nicotinic acid | SC1=C(C(=O)O)C(=CC=N1)C1=CC=C(C=C1)Cl | C12H8ClNO2S
